US05045231
About 103 g of N-(2-aminoethyl)-3-aminopropylmethyldimethoxysilane (commercially available under the name "Silan GF 95" from Wacker-Chemie GmbH, Munich) are metered into a solution containing 63.7 g of potassium hydroxide (88 percent in water) in 200 g of water, with vigorous stirring. First methanol and then about 70 g of water are distilled off from the mixture, by heating. The mixture is then made up to a total weight of 317 g by addition of water. A 40 percent potassium N-(2-aminoethyl)-3-aminopropylmethylsilanolate solution is obtained.

reactant | N-(2-aminoethyl)-3-aminopropylmethyldimethoxysilane | 103 g | NCCNCCC[Si](OC)(OC)C | C8H22N2O2Si
reactant | Silan | [SiH4] | H4Si
reactant | potassium hydroxide | 63.7 g | [OH-].[K+]
solvent | water | 200 g | O | H2O
product | potassium N-(2-aminoethyl)-3-aminopropylmethylsilanolate | 40 percent | NCCNCCC[SiH]([O-])C.[K+] | InChI=1S/C6H17N2OSi.K/c1-10(9)6-2-4-8-5-3-7;/h8,10H,2-7H2,1H3;/q-1;+1
